US04115575
7.5 g of 3-chloro-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine and 3.2 g of sodium methylate in 150 ml of methanol are boiled for 10 hours under reflux. The reaction mixture is then evaporated in a waterpump vacuum. The residue is partitioned between 2 N hydrochloric acid and ether. The acid aqueous phase is rendered alkaline with concentrated sodium hydroxide solution and extracted by shaking with ether. The ether extracts are washed with water, dried over sodium sulphate and evaporated in a waterpump vacuum. The crude base is thus obtained, from which 3-methoxy-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine hydrochloride, melting point 152°-153° C., is obtained by reaction with ethereal hydrochloric acid in methanol.

reactant | 3-chloro-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine | 7.5 g | ClC=1C(=NC=CN1)OCC(CNC(C)C)O | C10H16ClN3O2
reactant | sodium methylate | 3.2 g | C[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 3-methoxy-2-(3'-isopropylamino-2'-hydroxy-propoxy)-pyrazine hydrochloride | Cl.COC=1C(=NC=CN1)OCC(CNC(C)C)O | InChI=1S/C11H19N3O3.ClH/c1-8(2)14-6-9(15)7-17-11-10(16-3)12-4-5-13-11;/h4-5,8-9,14-15H,6-7H2,1-3H3;1H
